US07781591B2
A mixture of 4-hydroxynicotinonitrile (45.7 g, 381 mmol), iodine (96.6 g, 381 mmol) and NaOH (19.8 g, 825 mmol) in water (600 mL) was heated at 85° C. overnight, cooled to r.t. and diluted with water. The precipitate was collected by filtration and washed with water to give 57.5 g (61%) of 4-hydroxy-5-iodonicotinonitrile as a tan solid. Mp>245° C.

reactant | 4-hydroxynicotinonitrile | 381 mmol, 45.7 g | OC1=CC=NC=C1C#N | C6H4N2O
reactant | iodine | 381 mmol, 96.6 g | II | I2
reactant | NaOH | 825 mmol, 19.8 g | [OH-].[Na+]
solvent | water | 600 mL | O | H2O
product | 4-hydroxy-5-iodonicotinonitrile | 57.5 g, 61% | OC1=C(C=NC=C1C#N)I | C6H3IN2O
